US08669271B2
4-[5-(2-Methyl-4-methylsulfanyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
To a mixture of 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester (150 mg), 1-bromo-2-methyl-4-methylsulfanyl-benzene (60 mg), in N,N-dimethylformamide (3 mL) a 2 M aqueous Na2CO3 solution (0.29 mL) is added. The mixture is sparged with argon for 10 min and PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex (19 mg) is added. The resulting mixture is stirred for 6 h at 90° C. After cooling to room temperature, water and methanol are added and the aqueous phase is extracted with ethyl acetate. The organic phase is concentrated and the residue is purified by HPLC on reversed phase (MeOH/H2O/TFA). Yield: 56 mg (56% of theory); LC (method 2): tR=1.70 min; Mass spectrum (ESI+): m/z=426 [M+H]+.

reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | 150 mg | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C23H34BNO5
reactant | 1-bromo-2-methyl-4-methylsulfanyl-benzene | 60 mg | BrC1=C(C=C(C=C1)SC)C | C8H9BrS
reactant | Na2CO3 | 2 M, 0.29 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[5-(2-Methyl-4-methylsulfanyl-phenyl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C2=C(C=C(C=C2)SC)C | C25H31NO3S
